US04045576
Sodium 2-amino-3-(4-fluorobenzoyl)phenylacetate Hydrate.
A solution of 1 g. (0.0036 mole) of 2-amino-3-(4-fluorobenzoyl)phenylacetic acid in 10 ml. of tetrahydrofuran was treated with 0.7 g. of a 50% sodium hydroxide solution (0.009 mole) and stirred under nitrogen for 15 min. before a yellow precipitate developed. The stirred mixture was cooled in an ice bath for 2 hr. The precipitate was then filtered off and air-dried. Recrystallization from tetrahydrofuran-water yielded 150 mg. (20%) of product which melted at 240°-250° C. (dec.).

reactant | 2-amino-3-(4-fluorobenzoyl)phenylacetic acid | 0.0036 mole | NC1=C(C=CC=C1C(C1=CC=C(C=C1)F)=O)CC(=O)O | C15H12FNO3
reactant | sodium hydroxide | 0.009 mole | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Sodium 2-amino-3-(4-fluorobenzoyl)phenylacetate Hydrate | O.NC1=C(C=CC=C1C(C1=CC=C(C=C1)F)=O)CC(=O)[O-].[Na+] | InChI=1S/C15H12FNO3.Na.H2O/c16-11-6-4-9(5-7-11)15(20)12-3-1-2-10(14(12)17)8-13(18)19;;/h1-7H,8,17H2,(H,18,19);;1H2/q;+1;/p-1
